US08580762B2
Step 3. 3-[3-({[(3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyl-tetrahydro-2H-furo[3,4-d][1,3]dioxol-4-yl]methyl}(propan-2-yl)amino)cyclobutyl]propanoic acid
10% Pd—C (70 mg) was added to a solution of benzyl 3-[3-({[(3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyl-tetrahydro-2H-furo[3,4-d][1,3]dioxol-4-yl]methyl}(propan-2-yl)amino)cyclobutyl]propanoate (790 mg, 1.40 mmol) in EtOH (20 ml) and stirred under an atmosphere of hydrogen for 18 hours at RT. A further aliquot of 10% Pd—C (70 mg) was added and the reaction was continued stirring under hydrogen for 4 hours. This was filtered and evaporated in vacuo, and then evaporated from DCM (2×20 ml) to give 680 mg (quant.) of a white foamy solid; MS (ESI+) for C23H34N6O5 m/z 475.20 [M+H]+; HPLC purity 100% (ret. time, 1.11 min); 1N NMR (500 MHz, CHLOROFORM-d) δH ppm 8.29 (d, J=16.3 Hz, 1H), 7.97 (d, J=16.2 Hz, 1H), 6.86 (s, 2H), 6.05 (dd, J=4.3, 1.7 Hz, 1H), 5.66-5.43 (m, 1H), 5.00 (ddd, J=19.3, 6.3, 3.2 Hz, 1H), 4.30 (s, 1H), 3.47-2.85 (m, 2H), 2.60 (ddd, J=38.8, 24.1, 13.5 Hz, 2H), 2.19 (ddd, J=14.7, 11.9, 7.1 Hz, 2H), 2.07-1.94 (m, 2H), 1.81 (dd, J=65.1, 6.9 Hz, 3H), 1.66-1.46 (m, 5H), 1.45-1.22 (m, 4H), 1.00 (d, J=6.4 Hz, 3H), 0.89 (dd, J=12.2, 6.6 Hz, 3H).

reactant | benzyl 3-[3-({[(3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyl-tetrahydro-2H-furo[3,4-d][1,3]dioxol-4-yl]methyl}(propan-2-yl)amino)cyclobutyl]propanoate | 1.40 mmol, 790 mg | NC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)CN(C2CC(C2)CCC(=O)OCC2=CC=CC=C2)C(C)C | C30H40N6O5
solvent | EtOH | 20 ml | CCO | C2H6O
catalyst | Pd—C | 70 mg | [Pd] | Pd
catalyst | Pd—C | 70 mg | [Pd] | Pd
product | 3-[3-({[(3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyl-tetrahydro-2H-furo[3,4-d][1,3]dioxol-4-yl]methyl}(propan-2-yl)amino)cyclobutyl]propanoic acid | NC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)CN(C2CC(C2)CCC(=O)O)C(C)C | C23H34N6O5
